US07501421B2
Preparation of 4-Benzoxazol-2-yl-piperazine-1-carboxylic acid benzyl ester
A mixture of 2-chlorobenzoxazole (1.00 g, 6.51 mmol), benzyl 1-piperazinecarboxylate (1.43 g, 6.51 mmol), and K2CO3 (1.80 g, 13.0 mmol) in DMF (13 mL) was stirred at 100° C. overnight, cooled, diluted with water, and extracted with EtOAc. The extracts were combined, washed with water and brine, dried over Na2SO4 and concentrated in vacuo to provide the title compound (1.70 g, 77%), characterized by NMR and mass spectral analyses.

reactant | 2-chlorobenzoxazole | 6.51 mmol, 1.00 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | benzyl 1-piperazinecarboxylate | 6.51 mmol, 1.43 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | K2CO3 | 13.0 mmol, 1.80 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Benzoxazol-2-yl-piperazine-1-carboxylic acid benzyl ester | 1.70 g, 77% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C19H19N3O3
